### PR TITLE
[Merged by Bors] - feat(CategoryTheory): localization preserves braided structure

### PR DESCRIPTION
**Pull request by dagurtomas**
---

- [x] depends on: #29568 

[Open in Gitpod](https://gitpod.io/from-referrer/)

---

*This PR continues the work from #24485.*

*Original PR: https://github.com/leanprover-community/mathlib4/pull/24485*

### CODE REVIEW

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by dagurtomas** [comment]
I reverted back to simply moving the file `Localization.Monoidal` to `Localization.Monoidal.Basic`, to improve the diff. I will add a `deprecated module` in a followup PR instead

File: Mathlib/CategoryTheory/Localization/Monoidal/Basic.lean [hunk 1]
```diff
@@ -430,4 +432,23 @@ noncomputable instance : (toMonoidalCategory L W ε).Monoidal :=
       left_unitality Y := leftUnitor_hom_app L W ε Y
       right_unitality X := rightUnitor_hom_app L W ε X }
 
+local notation "L'" => toMonoidalCategory L W ε
+
+lemma associator_hom (X Y Z : C) : (α_ ((L').obj X) ((L').obj Y) ((L').obj Z)).hom =
+    (Functor.LaxMonoidal.μ (L') X Y) ▷ (L').obj Z ≫
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Localization/Monoidal/Basic.lean]:
```suggestion
lemma associator_hom (X Y Z : C) :
    (α_ ((L').obj X) ((L').obj Y) ((L').obj Z)).hom =
    (Functor.LaxMonoidal.μ (L') X Y) ▷ (L').obj Z ≫
```

File: Mathlib/CategoryTheory/Localization/Monoidal/Basic.lean [hunk 2]
```diff
@@ -430,4 +432,23 @@ noncomputable instance : (toMonoidalCategory L W ε).Monoidal :=
...
+      (Functor.LaxMonoidal.μ (L') (X ⊗ Y) Z) ≫
+        (L').map (α_ X Y Z).hom ≫
+          (Functor.OplaxMonoidal.δ (L') X (Y ⊗ Z)) ≫
+            ((L').obj X) ◁ (Functor.OplaxMonoidal.δ (L') Y Z) := by
+  simp
+
+lemma associator_inv (X Y Z : C) : (α_ ((L').obj X) ((L').obj Y) ((L').obj Z)).inv =
+    (L').obj X ◁ (Functor.LaxMonoidal.μ (L') Y Z) ≫
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Localization/Monoidal/Basic.lean]:
```suggestion
lemma associator_inv (X Y Z : C) :
    (α_ ((L').obj X) ((L').obj Y) ((L').obj Z)).inv =
    (L').obj X ◁ (Functor.LaxMonoidal.μ (L') Y Z) ≫
```

File: Mathlib/CategoryTheory/Localization/Monoidal/Braided.lean [hunk 3]
```diff
@@ -0,0 +1,145 @@
...
+    ((braidingNatIso L W ε).hom.app ((L').obj X)).app ((L').obj Y) =
+      (Functor.LaxMonoidal.μ (L') X Y) ≫
+        (L').map (β_ X Y).hom ≫
+          (Functor.OplaxMonoidal.δ (L') Y X) := by
+  simp [braidingNatIso, lift₂NatIso]
+  rfl
+
+lemma braidingNatIso_hom_app_naturality_μ_left (X Y Z : C) :
+    ((braidingNatIso L W ε).hom.app ((L').obj X)).app ((L').obj Y ⊗ (L').obj Z)
+      ≫ (Functor.LaxMonoidal.μ (L') Y Z) ▷ (L').obj X =
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Localization/Monoidal/Braided.lean]:
```suggestion
@[reassoc
lemma braidingNatIso_hom_app_naturality_μ_left (X Y Z : C) :
    ((braidingNatIso L W ε).hom.app ((L').obj X)).app ((L').obj Y ⊗ (L').obj Z) ≫
      (Functor.LaxMonoidal.μ (L') Y Z) ▷ (L').obj X =
```

File: Mathlib/CategoryTheory/Localization/Monoidal/Braided.lean [hunk 4]
```diff
@@ -0,0 +1,145 @@
...
+        (L').obj X ◁ (Functor.LaxMonoidal.μ (L') Y Z) ≫
+          ((braidingNatIso L W ε).hom.app ((L').obj X)).app ((L').obj (Y ⊗ Z)) :=
+  (((braidingNatIso L W ε).hom.app ((L').obj X)).naturality ((Functor.LaxMonoidal.μ (L') Y Z))).symm
+
+lemma braidingNatIso_hom_app_naturality_μ_right (X Y Z : C) :
+    ((braidingNatIso L W ε).hom.app ((L').obj X ⊗ (L').obj Y)).app ((L').obj Z)
+      ≫ (L').obj Z ◁ (Functor.LaxMonoidal.μ (L') X Y) =
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Localization/Monoidal/Braided.lean]:
```suggestion
@[reassoc]
lemma braidingNatIso_hom_app_naturality_μ_right (X Y Z : C) :
    ((braidingNatIso L W ε).hom.app ((L').obj X ⊗ (L').obj Y)).app ((L').obj Z) ≫
      (L').obj Z ◁ (Functor.LaxMonoidal.μ (L') X Y) =
```

File: Mathlib/CategoryTheory/Localization/Monoidal/Braided.lean [hunk 5]
```diff
@@ -0,0 +1,145 @@
...
+        (Functor.LaxMonoidal.μ (L') X Y) ▷ (L').obj Z ≫
+          ((braidingNatIso L W ε).hom.app ((L').obj (X ⊗ Y))).app ((L').obj Z) :=
+  (NatTrans.congr_app ((braidingNatIso L W ε).hom.naturality
+    ((Functor.LaxMonoidal.μ (L') X Y))) ((L').obj Z)).symm
+
+lemma map_hexagon_forward (X Y Z : C) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Localization/Monoidal/Braided.lean:79]:
```suggestion
@[reassoc]
lemma map_hexagon_forward (X Y Z : C) :
```

File: Mathlib/CategoryTheory/Localization/Monoidal/Braided.lean [hunk 6]
```diff
@@ -0,0 +1,145 @@
...
+  simp only [associator_hom, Iso.app_hom, braidingNatIso_hom_app]
+  slice_rhs 0 4 =>
+    simp only [Functor.flip_obj_obj, Functor.CoreMonoidal.toMonoidal_toLaxMonoidal,
+      Functor.CoreMonoidal.toMonoidal_toOplaxMonoidal, comp_whiskerRight, assoc,
+      Functor.Monoidal.whiskerRight_δ_μ_assoc, Functor.LaxMonoidal.μ_natural_left]
+  slice_lhs 6 7 =>
+    rw [braidingNatIso_hom_app_naturality_μ_left, braidingNatIso_hom_app]
+  simp
+
+lemma map_hexagon_reverse (X Y Z : C) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Localization/Monoidal/Braided.lean:96]:
```suggestion
@[reassoc]
lemma map_hexagon_reverse (X Y Z : C) :
```

File: Mathlib/CategoryTheory/Localization/Monoidal/Braided.lean [hunk 7]
```diff
@@ -0,0 +1,145 @@
...
+  braided X Y := by simp [β_hom_app]
+
+end Braided
+
+section Symmetric
+
+variable [SymmetricCategory C]
+
+noncomputable instance : SymmetricCategory (LocalizedMonoidal L W ε) where
+  toBraidedCategory := inferInstance
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Localization/Monoidal/Braided.lean]: Untested, but this should not be necessary:
```suggestion
```

**Comment by joelriou** [comment]
Just some small syntax suggestions. Otherwise, LGTM.

File: Mathlib/CategoryTheory/Localization/Monoidal/Braided.lean [hunk 8]
```diff
@@ -0,0 +1,148 @@
...
+lemma braidingNatIso_hom_app (X Y : C) :
+    ((braidingNatIso L W ε).hom.app ((L').obj X)).app ((L').obj Y) =
+      (Functor.LaxMonoidal.μ (L') X Y) ≫
+        (L').map (β_ X Y).hom ≫
+          (Functor.OplaxMonoidal.δ (L') Y X) := by
+  simp [braidingNatIso, lift₂NatIso]
+  rfl
+
+@[reassoc
+lemma braidingNatIso_hom_app_naturality_μ_left (X Y Z : C) :
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Localization/Monoidal/Braided.lean]:
```suggestion
@[reassoc]
lemma braidingNatIso_hom_app_naturality_μ_left (X Y Z : C) :
```

File: Mathlib/CategoryTheory/Localization/Monoidal/Braided.lean [hunk 9]
```diff
@@ -0,0 +1,148 @@
...
+section Symmetric
+
+variable [SymmetricCategory C]
+
+noncomputable instance : SymmetricCategory (LocalizedMonoidal L W ε) where
+  symmetry := by
+    suffices
+        (braidingNatIso L W ε).hom ≫ (flipFunctor _ _ _).map (braidingNatIso L W ε).hom = 𝟙 _ by
+      intro X Y
+      exact NatTrans.congr_app (NatTrans.congr_app this X) Y
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Localization/Monoidal/Braided.lean]: It could be nice to add a constructor for `SymmetricCategory` which would be expressed in terms of `curriedBraidingNatIso`, and use it here (this may require adding another equational lemma relating `curriedBraidingNatIso` and `braidingNatIso`).

File: Mathlib/CategoryTheory/Monoidal/Braided/Multifunctor.lean [hunk 10]
```diff
@@ -226,4 +226,18 @@ def ofBifunctor : BraidedCategory C where
...
+
+variable [BraidedCategory C]
+  (h : (curriedBraidingNatIso C).hom ≫ (flipFunctor _ _ _).map (curriedBraidingNatIso C).hom = 𝟙 _)
+
+/--
+Alternative constructor for symmetric categories, where the symmetry of the braiding is phrased
+as an equality of natural transformation of bifunctors.
+-/
+def SymmetricCategory.ofCurried : SymmetricCategory C where
+  symmetry X Y := NatTrans.congr_app (NatTrans.congr_app h X) Y
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/Braided/Multifunctor.lean]:
```suggestion
/--
Alternative constructor for symmetric categories, where the symmetry of the braiding is phrased
as an equality of natural transformation of bifunctors.
-/
def SymmetricCategory.ofCurried [BraidedCategory C]
    (h : (curriedBraidingNatIso C).hom ≫ (flipFunctor _ _ _).map (curriedBraidingNatIso C).hom = 𝟙 _) :
    SymmetricCategory C where
  symmetry X Y := NatTrans.congr_app (NatTrans.congr_app h X) Y
```

**Comment by joelriou** [comment]
Thanks!

bors d+

**Comment by dagurtomas** [comment]
Thanks for the reviews! 

bors merge
